* Z:\home\mainster\CODES_local\LTSpice_projects\galvoscanner\powerstage_PushPull_FET_lochraster_KOB.asc
Q§T1 Vplus b1 Gn1 0 BC547B
Q§T2 Vmin b2 Gp1 0 BC327-40
R1 Gn1 Sn1 {bias}
R2 Sp1 Gp1 {bias}
R3 b1 d1 1k
R4 r4 b2 1k
D1 d1 stim 1N4148
D2 stim r4 1N4148
Rload1 N010 shunt 1.5
M1 Vplus Gn1 Sn1 Sn1 IRFP240
M2 Vmin Gp1 Sp1 Sp1 IRFP9240
L1 out_A N010 170µ
XU3 N016 Vmin N018 TL431
R10 Vplus N016 4.7k
Q1 N012 N016 N018 0 BC547B
R11 N018 Vmin 315
V1 Vplus 0 {vsup}
V2 Vmin 0 {-vsup}
V3 stim 0 PULSE(1 -1 0.6m 1u 1u 5m 10m) AC 1
R12 b2 N015 1m
R13 N004 b1 1m
XU1 0 in opOut opamp_param_3 Vp={0.95*Vsup} Vm={-0.95*Vsup} Ilim=20m FT={FT} SR=10 Vos=0 A0=100k phir=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
M3 N009 N011 0 0 IRFP240
V5 N009 0 10
V6 N011 0 10
M4 0 N017 N013 N013 IRFP9240
V4 N013 0 10
V7 N017 N013 10
I1 0 N004 {IK1}
I2 N015 0 {Ik1}
R5 N014 0 0.1
R6 in stim 10k
R8 Sn1 out_A {Rs}
R9 out_A Sp1 {Rs}
XU2 0 N006 N005 LM334
R14 N005 N006 25
XU4 0 N002 N001 LM334
R20 N001 N002 166
R21 N001 N003 {6.8*166}
Q3 N002 N002 N003 0 BC547B
R17 N003 0 100
R16 0 N012 100
R18 0 N004 100t
R15 N006 0 100
V8 Vcs 0 30
S1 0 NC_01 b1 0 Osw
R19 N014 in 20k
XU6 0 0 delay Td=25p
Rload3 N008 N007 {RL}
L3 stim N008 {LL}
C3 cl 0 {CL}
R22 N007 cl 10
V9 gnd1 0 1µ
.model D D
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.mos
* .step param bias list 200 1k 2.4k
.model npnx npn (Bf=200 Is={10m/exp(0.7/26m)}
.model pnpx pnp (Bf=200 Is={10m/exp(0.7/26m)}
.model Dx D (Is={(20*50u)/exp(0.7/26m)}
.model Osw SW(Ron=10u Roff=10meg Vt=12 Vh=-.2)
* .ac oct 100 1k 100meg
* .step param Ik1 1m 1.05m 5u
* PULSE(-.5 .5 0 1m 1m 10m 23m)
* Vp=25 Vm=-25 Ilim=20m
.param Ik1 = 3m
.param bias = 1.5k
.param Rs = 1u
.param vsup = 12
.param poti = 10k
.param set = 0.5
.param Rll = 5k
.param FT = 10meg
* .temp 27 90
* .step param Rset 10 30 0.1
* .step param Rll 10 10k 200
* .step param FT 10meg 50meg 10meg
.ac oct 100 1 10meg
* .step param set 0.1 1 0.2
.param LL=2.89m
.param RL=1.535
.param CL=470n
* {poti*(1-set)}
.lib delay.sub
.lib EIT_sub\opamp_parametrierbar.sub
.lib LM334.sub
.lib tl431.sub
.backanno
.end
