* Z:\media\data\CODES\LTSpice_projects\galvoscanner\testScheißIteration.asc
Q§T1 Vplus N001 Gn1 0 BC547B
Q§T2 Vmin N007 Gp1 0 BC327-40
R1 Gn1 Sn1 {Rbias}
R2 Sp1 Gp1 {Rbias}
R3 N001 N002 1k
R4 N005 N007 1k
D1 N002 N003 1N4148
D2 N003 N005 1N4148
Rload1 N006 N008 2
R5 Sn1 out_A 1µ
R6 out_A Sp1 1µ
M1 Vplus Gn1 Sn1 Sn1 IRFP240
M2 Vmin Gp1 Sp1 Sp1 IRFP9240
R7 N008 N004 9k
R8 N004 0 100t
L1 out_A N006 100µ
XU1 N010 Vmin N011 TL431
R9 Vplus N010 4.7k
Q1 IsinkOP N010 N011 0 BC547B
R10 N011 Vmin 613
V1 Vplus 0 {vsup}
V2 Vmin 0 {-vsup}
V3 in 0 0
R11 N007 N009 1m
XU3 in N004 N003 opamp_param_3 Vp=20 Vm=-20 Ilim=20m FT=10Meg SR=10 Vos=0 A0=100k phir=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
I1 0 N001 4m
R12 vplus IsinkOP 300
I2 N009 0 4m
R13 N008 0 0.1
.model D D
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.mos
* .temp 27 90
.model npnx npn (Bf=200 Is={10m/exp(0.7/26m)}
.model pnpx pnp (Bf=200 Is={10m/exp(0.7/26m)}
.model Dx D (Is={(20*50u)/exp(0.7/26m)}
* 4.27m
.dc V3 -0.1 0.1 0.01
.param vsup=25
* .step param vsup  list 25 12
* PULSE(-.5 .5 0 1m 1m 10m 23m)
* Vp=25 Vm=-25 Ilim=20m
.param Rbias = 100
.step param Rbias 1 10k 1k
* 310R
* .step param vsup 25 15 -1
.lib EIT_sub\opamp_parametrierbar.sub
.lib tl431.sub
.backanno
.end
