* Z:\home\mainster\CODES_local\LTSpice_projects\galvoscanner\transducer_v1.2.asc
V9 Vm 0 -10
V10 Vp 0 10
V1 Yc 0 PULSE({REF/2-YcAmpl} {REF/2+YcAmpl } {0.2/F1} 10n 10n {1/(2*F1)} {1/F1})
XU1 N003 N001 Vp Vm Ucc OPA404
R5 Vbias N001 {R1}
R6 Yc N003 {R3}
R7 N003 0 {R4}
R8 N001 Ucc {R2}
G1 0 N002 Ucc 0 -1
R11 N002 0 4
R3 Us TP1 12k
C1 TP1 0 220n
R17 TP1 TP2 12k
C2 TP2 0 220n
R19 N014 N013 1k
R20 N016 0 1k
R21 N015 N016 1k
R22 N014 Vbias1 1k
R§Shunt N013 0 0.1
I1 0 N013 SINE(0 1 1k)
V4 Vref1 0 2.5V
V5 Vbias1 0 1.25V
XU7 N014 N016 Vp Vref1 N015 OPA404
V2 Vref 0 2.5V
V6 Vbias 0 1.25V
R§ADC_DAC Vref 0 100k
V7 NC_01 0 SINE(0 10 1k 2m)
XU3 0 N009 Vp Vm Ys OPA404
R1 Ysbp N009 {22k*B}
R10 N009 Ys 22k
R27 Chan_x N012 {22k*20/2.5*fact}
R28 Vbias N012 22k
R29 N011 N010 22k
XU4 N012 N011 Vp Vm N010 OPA404
XU2 0 N008 Vp Vm N007 OPA404
R4 Vbias N008 27k
R9 N008 N007 27k
R2 N007 N009 22k
R12 Ys Ys_fb 120
Q1 NC_02 N006 0 0 BC327-40
R13 N006 N005 5.6k
V8 N004 0 PULSE(8 -8 4 10n)
R14 0 N006 39k
D1 N005 N004 D
E1 PoleZero 0 Us 0 laplace=1.435e+05*( 1 )/( (s+9.917e+02)*(s+1.447e+02) )
E2 NumDen 0 Us 0 laplace=(6.646e48)/(5.264e46*s+4.632e43*s**2+6.646e48)
E3 Ysbp 0 Us 0 laplace=1.435e+05*( 1 )/( (s+9.917e+02)*(s+1.447e+02) )
B1 Us 0 V=-V(Ucc)
.model D D
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.bjt
.include /home/mainster/.wine/drive_c/Program Files (x86)/LTC_orig/LTspiceIV_4.18/lib/sub/OPA404.LIB
.include /home/mainster/.wine/drive_c/Program Files (x86)/LTC_orig/LTspiceIV_4.18/lib/sub/LM358.lib
.tran {3/F1} 
* Messwandler v1.2 \n---------------------------------------------------------------\nSTM32 DAC out --> Endstufe Vin_ctrl\nREF2025:\n- mit Vref=2.5V (ref. analogpart STM32)\n- und Vbias=1.25V für differenz- und summierverstärker             \n---------------------------------------------------------------\nENDSTUFE INVERTIERT!!!!
* ------------------\n STM32f4\n------------------
* STM32 DAC \nVout_ctrl
* Endstufe
.param frect = 25
;.step param frect list 10 25 50 100 1k
* INA213B
* REF20xx
* REF20xx
.param R1 = 12k
.param R2 = 24k
.param R3 = R1
.param R4 = R2
.param REF = 2.5V
.param B = 1
.param F1 = 10
.param YcAmpl = 0.2
* Pos. Demodulator\n+-10V @ +-20°
.param fact = 1
;.step param fact list 0.85 1 1.05
;ac oct 100 1 1meg
* {22k*20/2.5}
* SINE({REF/2 } {REF/2 } {F1} {0.2/F1})
* Us*
.backanno
.end
