* Z:\home\mainster\CODES_local\LTSpice_projects\galvoscanner\aktuell\LTC6090_freq_resp.asc
V1 -V 0 -70
XU1 0 N002 0 -V NC_01 OUT +V NC_02 LTC6090
V2 +V 0 70
R1 OUT N002 {1k*Kp}
C1 OUT NC_03 1p
V3 N001 0 2.5
R3 N002 IN 1k
V4 IN 0 SINE(0 .1 1k) AC 1
.ac oct 100 1 1meg
* .step param Kp 1 500 25
.param Kp=100
.lib LTC5.lib
.backanno
.end
