* Z:\home\mainster\CODES_local\LTSpice_projects\galvoscanner\aktuell\lead_lag_glied.asc
V3 stimac 0 SINE(20m 1 100 20m) AC 1
XU7 stimac N002 lead opamp_param_3 Vp=10 Vm=-10 Ilim=20m FT=10Meg SR=10 Vos=0 A0=100k phir=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R4 0 N002 1k
C1 lead N002 {Clead}
R3 N002 lead {1k*(gain-1)}
XU3 stimac N004 lag opamp_param_3 Vp=10 Vm=-10 Ilim=20m FT=10Meg SR=10 Vos=0 A0=100k phir=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R1 0 N004 1k
C2 N004 P001 {Clag}
R2 P001 0 {Rlag}
R6 N004 lag {1k*(gain-1)}
XU1 0 N001 lead_inv opamp_param_3 Vp=10 Vm=-10 Ilim=20m FT=10Meg SR=10 Vos=0 A0=100k phir=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R5 stimac N001 1k
C3 lead_inv N001 {Clead}
R7 N001 lead_inv {1k*(gain-1)}
XU2 0 N003 lag_inv opamp_param_3 Vp=10 Vm=-10 Ilim=20m FT=10Meg SR=10 Vos=0 A0=100k phir=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R8 stimac N003 1k
C4 N003 P002 {Clag}
R9 P002 stimac {Rlag}
R10 N003 lag_inv {1k*(gain-1)}
.model SWx SW(Ron=1u Roff=100Meg Vt=0 Vh=-.5 )
.inc ADA4700.sub
.inc LM358.sub
;.tran 0 100m 1m
;.options plotwinsize=0
;.tran 0 2.8m 1.9m 1e-7
.ac oct 100 100 1meg
* .step TEMP list 27 150
.option noopiter
.options plotwinsize=0
;.four 1k 10 I(L1)
* .step param Kpi list 1 5 10
* .dc V3 -5 5 .01
* .op
* .tran 0 100m 1m\n.options plotwinsize=0
* .tran 0 50m\n.options plotwinsize=0
* .step param Lcoil list 1f 170u
* .step param Cf list 5p 10p 15p 20p
* .step param Ctp list 1p 100p 200p 470p 1n
* .step param Cf list 1p 20p 50p 100p
* .step param gainSum list 1 2 5
.param Rlag=1k
.param Clead = {Clag}
.param gain = 20
.step param Clag 400p 1n 200p
.lib EIT_sub\opamp_parametrierbar.sub
.backanno
.end
