* Z:\home\mainster\CODES_local\LTSpice_projects\galvoscanner\aktuell\matlab_val_RC_LR.asc
L1 in2 N001 170µ
Rsh1 out_LR 0 .01
Rm1 N001 out_LR 1.5
R1 in2 out_RC 1k
C1 out_RC 0 220n
E1 out_LRu_s 0 in2 0 laplace=(58.82)/(s+8882.0)
E2 out_LRi_s 0 in2 0 laplace=(5882.0)/(s+8882.0)
E3 out_RCu_s 0 in2 0 laplace=(4545.0)/(s+4545.0)
E4 out_RCi_s 0 in2 0 laplace=(4.545)/(s+4545.0)
A1 in2 P001 0 0 0 0 in2a 0 MODULATOR mark=100k, space=500
XU1 P001 vdc_single V=5V
V1 in2 0 PULSE(0 1 0 10m) AC 1
B1 N002 0 V=log10(TIME/100m)
* laplace=(s)/(s+4545.0)
* laplace=(0.001*s)/(s+4545.0)
.ac oct 100 1 100k
.lib EIT_sub\vdc_single.sub
.backanno
.end
