* Z:\home\mainster\CODES_local\LTSpice_projects\galvoscanner\aktuell\powerstage_PushPull_FET_lochraster_KOB_BETTER_fresp.asc
Q§T1 Vplus b1 Gn1 0 FMMT624
Q§T2 Vmin b2 Gp1 0 FMMT723
R1 Gn1 Sn1 {bias}
R2 Sp1 Gp1 {bias}
R3 b1 d1 {bias_b}
R4 r4 b2 {bias_b}
D1 d1 opOut 1N4148
D2 opOut r4 1N4148
Rload1 N009 shunt 3.54
M1 Vplus Gn1 Sn1 Sn1 IRFP240
M2 Vmin Gp1 Sp1 Sp1 IRFP9240
L1 out_A N009 170µ
XU3 N016 Vmin N021 TL431
R10 Vplus N016 4.7k
Q1 N014 N016 N021 0 BC547B
R11 N021 Vmin 315
V1 Vplus 0 {vsup}
V2 Vmin 0 {-vsup}
V3 stim 0 SINE(0 10m 100) AC 1
R12 b2 N015 1m
R13 N002 b1 1m
M3 N011 N012 0 0 IRFP240
V5 N011 0 10
V6 N012 0 10
M4 0 N023 N019 N019 IRFP9240
V4 N019 0 10
V7 N023 N019 10
I1 0 N002 {IK1}
I2 N015 0 {Ik1}
R5 shunt 0 0.075
R6 in stim {srV}
R8 Sn1 out_A {Rs}
R9 out_A Sp1 {Rs}
XU2 0 N005 N003 LM334
R14 N003 N005 25
XU4 0 N004 N001 LM334
R20 N001 N004 166
R21 N001 N006 {6.8*166}
Q3 N004 N004 N006 0 BC547B
R17 N006 0 100
R16 0 N014 100
R18 0 N002 100t
R15 N005 0 100
V8 Vcs 0 30
S1 0 NC_01 b1 0 Osw
R19 shunt in 40k
XU6 0 0 delay Td=25p
Rload3 N008 N007 {RL}
L3 0 N008 {LL}
C3 cl 0 {CL}
R22 N007 cl 10
V9 gnd1 0 1µ
XU7 0 0 0 MJ11016G
XU5 0 0 0 MJ11015G
XU9 NC_02 0 0 0 NC_03 NC_04 NC_05 NC_06 LTC6090
XU1 0 in opOut opamp_param_3 Vp={0.95*Vsup} Vm={-0.95*Vsup} Ilim=20m FT={FT} SR=10 Vos=0 A0=100k phir=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
XU8 N022 N018 N020 N025 N017 N024 LTC2050
XU10 N020 vdc_single V=5V
XU11 N025 vdc_single V=-5V
XU12 N024 vdc_single V=5V
R7 N013 N018 27
R23 N017 N018 {27*1}
C1 0 0 {1/(2*pi*40k*Rcp)}
R24 0 N010 1
C2 N010 0 {1/(2*pi*60k*1)}
XU13 N013 0 jumperResistorNC Rin=1t Rout=1t R_open=10t R_closed=1p CLOSED={fb}
XU14 N013 shunt jumperResistorNO Rin=1t Rout=1t R_open=10t R_closed=1p OPEN={fb}
XU15 N022 shunt jumperResistorNC Rin=1t Rout=1t R_open=10t R_closed=1p CLOSED={fb}
XU16 N022 0 jumperResistorNO Rin=1t Rout=1t R_open=10t R_closed=1p OPEN={fb}
.model D D
.lib C:\Program Files (x86)\LTC_ALL\LTspiceIV_4.18_multiLibs\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Program Files (x86)\LTC_ALL\LTspiceIV_4.18_multiLibs\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Program Files (x86)\LTC_ALL\LTspiceIV_4.18_multiLibs\lib\cmp\standard.mos
* .step param bias list 200 1k 2.4k
.model npnx npn (Bf=200 Is={10m/exp(0.7/26m)}
.model pnpx pnp (Bf=200 Is={10m/exp(0.7/26m)}
.model Dx D (Is={(20*50u)/exp(0.7/26m)}
.model Osw SW(Ron=10u Roff=10meg Vt=12 Vh=-.2)
* .ac oct 100 1k 100meg
* .step param Ik1 1m 1.05m 5u
* PULSE(-.5 .5 0 1m 1m 10m 23m)
* Vp=25 Vm=-25 Ilim=20m
.param Ik1 = 3m
;.param bias = 100
.param bias = 150
;.param bias_b = 270
.param bias_b = 250
.param Rs = 0.015
.param vsup = 30
.param poti = 10k
.param set = 0.5
.param Rll = 5k
.param FT = 10meg
* .temp 27 90
* .step param Rset 10 30 0.1
* .step param Rll 10 10k 200
* .step param FT 10meg 50meg 10meg
;dc V3 -2 2 0.001
* .step param set 0.1 1 0.2
.param LL=2.89m
.param RL=1.535
.param CL=470n
.model D45H11 PNP(IS=7.89979e-11 BF=65.9745 NF=0.851012 VAF=10.7084 IKF=10 Ise=4.79702e-14 Ne=4 BR=1.96197
.model D45H11npn NPN(IS=7.89979e-11 BF=65.9745 NF=0.851012 VAF=10.7084 IKF=10 Ise=4.79702e-14 Ne=4 BR=1.96197
.ac oct 100 10 1meg
* .tran 30m
* .step param srV list 100 20k
.param srV=1k
* .step param Rcp 3k 1k 250
.param Rcp=10k
.param fb=0 ;non-inverting if 1
* .step param fb list 0 1
.lib delay.sub
.lib EIT_sub\opamp_parametrierbar.sub
.lib EIT_sub\vdc_single.sub
.lib LM334.sub
.lib LTC.lib
.lib MDB_sub/jumperRes.sub
.lib MDB_sub/LTC6090m.sub
.lib MJ11015G.sub
.lib mj11016g.sub
.lib tl431.sub
.backanno
.end
