* Z:\home\mainster\CODES_local\LTSpice_projects\galvoscanner\aktuell\analogregler\LoopGain_tests.asc
V1 W 0 PULSE(0 1 300u 100n) AC 1
R1 Error N004 1k
R2 N004 0 1k
R3 N008 W 1k
R4 0 N008 1k
R7 N006 P1 1.2k
C1 N006 0 220n
R6 N005 Error {Rm}
XU1 0 N005 P2 opamp_param_3 Vp={Vpw} Vm=-{Vpw} Ilim={Ilim} FT=10Meg SR=1000 Vos=0 A0=100k phir=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
XU2 N008 N004 Error opamp_param_3 Vp=10 Vm=-10 Ilim=20m FT=10Meg SR=10 Vos=0 A0=100k phir=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R5 P2 N005 {Rf}
C2 Y1 0 220n
R8 Y1 N006 1.2k
L1 N009 P2 170µ
R9 N009 Y2 3.5
R10 Y2 0 .1
R11 P1 0 100meg
R12 P2 0 100meg
XU3 N001 vdc_single V={Vpw}
XU4 N002 vdc_single V={-Vpw}
R13 V+ N001 .1
R14 V- N002 .1
C3 0 V+ 1000µ
C4 0 V- 1000µ
* .include LM675.sub
* Kp=R2/R1+Cd/Ci\nKi=1/(R1*Ci)\nKd=R2*Cd
.ac oct 100 1 10meg
* .inc Z:\\media\\data\\CODES\\LTSpice_projects\\regelungstechnik_Symbole\\PT2.sub
* .include NJM4580_2.lib
* .include NJM4580_2.lib\n.include LM675.sub
* .lib Z:\\home\\mainster\\CODES_local\\LTSpice_projects\\regelungstechnik_Symbole\\PT2.sub
.param Rm = 1k
.param Rf = Kp*Rm
.param Ci = 1/(Rm*Ki)
.param Kp = 36
.param Ki = 7690
* .tran 2m
* .step param Kp list 1 10 100
.param Vpw = 20V
.param Ilim = 20A
.inc Z:\home\mainster\CODES_local\LTSpice_projects\lib_mdb\MDB_sub\LM675.lib
.lib EIT_sub/vdc_single.sub
.lib EIT_sub\opamp_parametrierbar.sub
.backanno
.end
