* Z:\media\data\CODES\LTspiceWorkspace\LTspice_galvo\aktuell\bauteile_bestimmt\Draft10.asc
R1 N001 Vd {Rpot}
D1 Vd 0 1N4148
V1 N001 0 5
.model D D
.lib C:\users\mainster\My Documents\LTspiceXVII\lib\cmp\standard.dio
* .step param Rpot list 1k 10k
.param Rpot=1k
.dc V1 0.1 1 50m
.backanno
.end
