* Z:\home\mainster\CODES_local\LTSpice_projects\galvoscanner\aktuell\bauteile_bestimmt\LTC6090_hv_oscill_why.asc
XU1 0 in- in+ V- NC_01 out V+ NC_02 LTC6090
R1 sig in+ 10k
C1 in- out {Cf}
XU2 V- vdc_single V={-sup}
XU3 V+ vdc_single V={sup}
R2 in- out 453k
XU4 N001 vdc_single V=2.5V
R3 N001 in- 16k2
R4 in- 0 16k9
C2 in+ 0 470p
V1 sig 0 SINE(1.25 1.25 {fsig} 1m) AC 1
XU5 0 in2- in2+ V- NC_03 out2 V+ NC_04 LTC6090
R5 sig in2- {453k/55}
C3 in2- out2 {Cf}
R6 in2- out2 453k
XU6 P001 vdc_single V=2.5V
R7 P001 in2+ 16k2
R8 in2+ 0 16k2
XU7 0 in3- 0 V- NC_05 out3 V+ NC_06 LTC6090
C4 in3- out3 {Cf}
R9 in3- out3 500k
R10 sig in3- 10k
C6 in2- 0 470p
C5 in3- 0 470p
.param Cf = 1p
.param fsig = 1k
.param sup = 70V
.ac oct 100 1 10meg
* 8k2713
* PULSE(0 2.5 1m 1m 1n 1n 1m)
.step param cf 10p 20p 2.5p
.lib EIT_sub\vdc_single.sub
.lib LTC5.lib
.backanno
.end
