* Z:\home\mainster\CODES_local\LTSpice_projects\galvoscanner\aktuell\bauteile_bestimmt\endstufe_BJT_EMIT_MJ1101xG_ltc6090_ada4700_compare_FMMT627_ersatz_FERTIG_hoch2.asc
R14 N013 shunt 1.5
L1 out_A N013 170µ
Rshunt shunt 0 0.01
R4 out_A N005 1t
C2 N005 0 100n
E4 fbSens 0 shunt 0 -25
R5 fbSens jjIsensA 1
C1 jjIsensA 0 1n
XU1 V2+ vdc_single V=16
XU2 V2- vdc_single V=-16
R2 N012 IsensA {Rsu}
R6 stimOffs N006 {Rsu}
R7 N012 sumB {Rsu}
R8 0 N006 {Rsu}
XU4 N006 N012 V2+ V2- sumB NJM4580_1
R13 sumB N009 10k
XU5 0 N011 0 V- NC_01 opV V+ NC_02 LTC6090
R16 sumBinv N011 10k
R17 N011 out_A {10k*Kpi}
Q§T3 0 0 0 0 FMMT625
Q§T4 V- bias_lo2 b_lo 0 FMMT722
R23 b_hi e_hi {bias_be1}
R24 e_lo b_lo {bias_be1}
R25 bias_hi1 bias_hi2 {bias_b1}
R26 bias_lo1 bias_lo2 {bias_b1}
I3 V+ bias_hi1 {IK3} load
I4 bias_lo2 V- {Ik3} load
R37 e_hi out_A {Rs}
R38 e_lo out_A {Rs}
C6 e_lo b_lo 10p
C7 b_hi e_hi 10p
XU6 V- b_lo e_lo MJ11015G_D MJ11015G_D
XU7 V+ b_hi e_hi MJ11016G_D MJ11016G_D
D8 N001 opV 1N4148
D10 opV N007 1N4148
R11 N015 N017 2
S1 N017 0 N018 0 SWx
V1 N018 0 PULSE(-1 1 5m 100u 100u 5m 80m)
V4 stimOffs stimac PULSE({Vstim_peak} 0 0 100u)
D1 bias_hi2 N001 1N4148
D2 N007 bias_lo1 1N4148
E2 sumBinv 0 N009 0 1
C4 N011 out_A {Cf}
B2 calcSum 0 V=V(stimoffs)-V(isensa)
V2 stimpwl 0 PWL(0 0 200u 1u 201u {V1} 900u {V1-1u} 901u 0 1.6m 1u 1.601m {-V1} 2.3m {-V1+1u} 2.301m 0)
XU8 0 N020 N021 N022 Isensa P001 LTC2050
XU10 N021 vdc_single V=5V
XU11 N022 vdc_single V=-5V
R9 Isensa N020 2.5k
R10 N020 shunt 25
C8 Isensa N020 1f
V3 stimac 0 PULSE({-Vstim_peak} {Vstim_peak} 0 100n 100n 500u 1m) AC 1
XU20 V+ vdc_single V={Vsup}
XU21 V- vdc_single V={-Vsup}
XU3 P001 vdc_single V=5V
E1 la1 0 stimac 0 1
Q§T1 V+ bias_hi1 b_hi 0 FMMT625
.model D D
.lib C:\Program Files (x86)\LTC_ALL\LTspiceIV_4.18_multiLibs\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Program Files (x86)\LTC_ALL\LTspiceIV_4.18_multiLibs\lib\cmp\standard.bjt
.inc ADA4700.sub
.inc LM358.sub
* Shunt monitor Gain
.tran 0 2.8m 1.9m
; ---------------------
;   Power amp
; ---------------------
.param Ik1 = 3m
.param bias = 1k
;.param bias_b = 100
.param Rs = 10m
.param Rset_bias = 100
; ---------------------
;   Compensator
; ---------------------
.param Rsu = 10k
.param Kpi = 10
.param Ki = 15000
; ---------------------
;   SOURCES
; ---------------------
.param Vsup = 30V
.param Vstim_peak = 1
.MEAS TRAN slewHi DERIV I(Rshunt) WHEN I(Rshunt)='15'
.MEAS TRAN slewLo DERIV I(Rshunt) WHEN I(Rshunt)='-15'
.MEAS TRAN tRise TRIG I(Rshunt) VAL=-15 RISE=1
+ TARG I(Rshunt) VAL=15 TD 10ns RISE=1
.MEAS TRAN tFall TRIG I(Rshunt) VAL=15 FALL=1
+ TARG I(Rshunt) VAL=-15 TD 10ns FALL=2
* .step TEMP list 27 150
* .tran 0 2.8m 1.9m 1e-7
.param Ik3 = 1m
.param UV1 = 0.75V
.param bias_be1 = 15
.param bias_b1 = {UV1/Ik3}
.model SWx SW(Ron=1u Roff=100Meg Vt=0 Vh=-.5 )
.option noopiter
.param Cfe = 1p
* .step param Cfe list 1f 1p 2p 4p 10p
.param Cf = 2p
;.step param Cf 1p 250p 25p
* MINUS 25\nMINUS 25\nMINUS 25\nMINUS 25
* .step param sg 0 50 5
* .step param Kpi list 4.5 10 20
.options plotwinsize=0
* .step param Kpi 2.5 5 0.5
* .ac oct 100 1 100k
.param V1=1;
.param Rein 100
;.step param Rein list 1k 500 200 100
* PULSE({-Vstim_peak} {Vstim_peak} 0 100n 100n 1m 2m)
* laplace=1/(s*170e-6+1.51)
.step param Kpi list 27 10
* FMMT723
.lib EIT_sub\vdc_single.sub
.lib LTC.lib
.lib LTC5.lib
.lib mj11015g_d.sub
.lib mj11016g_d.sub
.lib NJM4580_1.sub
.backanno
.end
